US06008230
To a solution of 3-carboxy-8-(2,6-dichlorobenzoylamino)-4-hydroxymethylquinoline (1.11 g) in dimethylformamide were added imidazole (637 mg) and tert-butyldiphenylsilyl chloride (2.57 g) under ice-cooling, and the mixture was stirred for 5 hours at ambient temperature. The mixture was partitioned between ethyl acetate and water, and the organic layer was washed with brine, dried over magnesium sulfate and evaporated in vacuo. To the solution of the obtained residue in dioxane (10 ml) was added 1N sodium hydroxide solution (2.9 ml), and the mixture was stirred for 30 minutes at ambient temperature. The mixture was diluted with water and washed with diethyl ether. The aqueous layer was acidified with 1N hydrochloric acid and extracted with ethyl acetate. The extract was washed with water and brine, dried over magnesium sulfate and evaporated in vacuo. The residue was dissolved in isopropyl alcohol-diisopropyl ether, and insoluble material was filtered off. The filtrate was concentrated in vacuo to give 4-(tert-butyldiphenylsilyloxymethyl)-3-carboxy-8-(2,6-dichlorobenzoylamino)quinoline (1.22 g).

reactant | 3-carboxy-8-(2,6-dichlorobenzoylamino)-4-hydroxymethylquinoline | 1.11 g | C(=O)(O)C=1C=NC2=C(C=CC=C2C1CO)NC(C1=C(C=CC=C1Cl)Cl)=O | C18H12Cl2N2O4
reactant | imidazole | 637 mg | N1C=NC=C1 | C3H4N2
reactant | tert-butyldiphenylsilyl chloride | 2.57 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)Cl | C16H19ClSi
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 4-(tert-butyldiphenylsilyloxymethyl)-3-carboxy-8-(2,6-dichlorobenzoylamino)quinoline | 1.22 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC1=C(C=NC2=C(C=CC=C12)NC(C1=C(C=CC=C1Cl)Cl)=O)C(=O)O | C34H30Cl2N2O4Si
